* Copyright © Linear Technology Corp. 2015.  All rights reserved.
*
.subckt LTC3025-1 1 2 3 4 5 6
A5 6 2 2 2 2 2 N012 2 SCHMITT Vt=0.8 Vh=2m Vhigh=.4 Vlow=0 Rout=1K Tau=1u
C4 6 2 10p Rpar=10Meg
R3 P001 N012 10
C5 P001 2 120n
M1 3 N009 N006 N006 NPE
C7 5 2 10p Rpar=10Meg
C8 3 2 10p Rpar=10Meg
A3 1 2 2 2 2 N002 2 2 SCHMITT Vt=2.2 Vh=2m Trise=50n
S2 2 N012 N004 2 SDN
A12 5 N012 N003 2 2 2 N010 2 OTA G=50u Rout=10Meg Vhigh=5 Vlow=-1
R2 4 N006 1m
G2 2 N003 3 2 table(1 8.7m 2 11m 3 12m 4.5 13m 5 14m)
D2 2 N003 ILMT
G1 2 N003 4 N006 10
C1 4 2 10p Rpar=10Meg
A1 3 2 2 2 2 N005 2 2 SCHMITT Vt=.9 Vh=2m Trise=50n
A2 2 N002 2 N005 2 2 N004 2 OR Trise=50n
C2 N009 2 .5p
C3 1 N009 .5p
S1 N009 1 N010 N009 OPOS
S3 2 N009 N009 N010 OPOSD
C9 N010 2 100p Rser=100K
.model NPE VDMOS(Vto=.25 Kp=50 Rd=.15)
.model SDN SW(Ron=1 Roff=100Meg Vt=0.5 Vh=-0.2)
.model ILMT D(Ron=1m Roff=10K  Vrev=10)
.model OPOS SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Vser=1.1 Ilimit=100u level=2)
.model OPOSD SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Ilimit=100u level=2)
.ends LTC3025-1
*
.subckt LTC3025-2 1 2 3 4 5 6
A5 6 2 2 2 2 2 N012 2 SCHMITT Vt=0.8 Vh=2m Vhigh=.4 Vlow=0 Rout=1K Tau=1u
C4 6 2 10p Rpar=10Meg
R3 P001 N012 10
C5 P001 2 120n
M1 3 N009 N006 N006 NPE
C8 3 2 10p Rpar=10Meg
A3 1 2 2 2 2 N002 2 2 SCHMITT Vt=2.2 Vh=2m Trise=50n
S2 2 N012 N004 2 SDN
A12 N013 N012 N003 2 2 2 N010 2 OTA G=50u Rout=10Meg Vhigh=5 Vlow=-1
R2 4 N006 1m
G2 2 N003 3 2 table(1 8.7m 2 11m 3 12m 4.5 13m 5 14m)
D2 2 N003 ILMT
G1 2 N003 4 N006 10
C1 4 2 10p Rpar=10Meg
A1 3 2 2 2 2 N005 2 2 SCHMITT Vt=.9 Vh=2m Trise=50n
A2 2 N002 2 N005 2 2 N004 2 OR Trise=50n
R4 5 N013 80K
R5 N013 2 40K
C2 N009 2 .5p
C3 1 N009 .5p
S1 N009 1 N010 N009 OPOS
S3 2 N009 N009 N010 OPOSD
C7 N010 2 100p Rser=100K
.model NPE VDMOS(Vto=.25 Kp=50 Rd=.15)
.model SDN SW(Ron=1 Roff=100Meg Vt=0.5 Vh=-0.2)
.model ILMT D(Ron=1m Roff=10K  Vrev=10)
.model OPOS SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Vser=1.1 Ilimit=100u level=2)
.model OPOSD SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Ilimit=100u level=2)
.ends LTC3025-2
*
.subckt LTC3025-3 1 2 3 4 5 6
A5 6 2 2 2 2 2 N012 2 SCHMITT Vt=0.8 Vh=2m Vhigh=.4 Vlow=0 Rout=1K Tau=1u
C4 6 2 10p Rpar=10Meg
R3 P001 N012 10
C5 P001 2 120n
M1 3 N009 N006 N006 NPE
C8 3 2 10p Rpar=10Meg
A3 1 2 2 2 2 N002 2 2 SCHMITT Vt=2.2 Vh=2m Trise=50n
S2 2 N012 N004 2 SDN
A12 N013 N012 N003 2 2 2 N010 2 OTA G=50u Rout=10Meg Vhigh=5 Vlow=-1
R2 4 N006 1m
G2 2 N003 3 2 table(1 8.7m 2 11m 3 12m 4.5 13m 5 14m)
D2 2 N003 ILMT
G1 2 N003 4 N006 10
C1 4 2 10p Rpar=10Meg
A1 3 2 2 2 2 N005 2 2 SCHMITT Vt=.9 Vh=2m Trise=50n
A2 2 N002 2 N005 2 2 N004 2 OR Trise=50n
R4 5 N013 110K
R5 N013 2 40K
C2 N009 2 .5p
C3 1 N009 .5p
S1 N009 1 N010 N009 OPOS
S3 2 N009 N009 N010 OPOSD
C7 N010 2 100p Rser=100K
.model NPE VDMOS(Vto=.25 Kp=50 Rd=.15)
.model SDN SW(Ron=1 Roff=100Meg Vt=0.5 Vh=-0.2)
.model ILMT D(Ron=1m Roff=10K  Vrev=10)
.model OPOS SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Vser=1.1 Ilimit=100u level=2)
.model OPOSD SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Ilimit=100u level=2)
.ends LTC3025-3
*
.subckt LTC3025-4 1 2 3 4 5 6
A5 6 2 2 2 2 2 N012 2 SCHMITT Vt=0.8 Vh=2m Vhigh=.4 Vlow=0 Rout=1K Tau=1u
C4 6 2 10p Rpar=10Meg
R3 P001 N012 10
C5 P001 2 120n
M1 3 N009 N006 N006 NPE
C8 3 2 10p Rpar=10Meg
A3 1 2 2 2 2 N002 2 2 SCHMITT Vt=2.2 Vh=2m Trise=50n
S2 2 N012 N004 2 SDN
A12 N013 N012 N003 2 2 2 N010 2 OTA G=50u Rout=10Meg Vhigh=5 Vlow=-1
R2 4 N006 1m
G2 2 N003 3 2 table(1 8.7m 2 11m 3 12m 4.5 13m 5 14m)
D2 2 N003 ILMT
G1 2 N003 4 N006 10
C1 4 2 10p Rpar=10Meg
A1 3 2 2 2 2 N005 2 2 SCHMITT Vt=.9 Vh=2m Trise=50n
A2 2 N002 2 N005 2 2 N004 2 OR Trise=50n
R4 5 N013 140K
R5 N013 2 40K
C2 N009 2 .5p
C3 1 N009 .5p
S1 N009 1 N010 N009 OPOS
S3 2 N009 N009 N010 OPOSD
C7 N010 2 100p Rser=100K
.model NPE VDMOS(Vto=.25 Kp=50 Rd=.15)
.model SDN SW(Ron=1 Roff=100Meg Vt=0.5 Vh=-0.2)
.model ILMT D(Ron=1m Roff=10K  Vrev=10)
.model OPOS SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Vser=1.1 Ilimit=100u level=2)
.model OPOSD SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Ilimit=100u level=2)
.ends LTC3025-4
*
.subckt LTC3025 1 2 3 4 5 6
A5 6 2 2 2 2 2 N012 2 SCHMITT Vt=0.8 Vh=2m Vhigh=.4 Vlow=0 Rout=1K Tau=1u
C4 6 2 10p Rpar=10Meg
R3 P001 N012 10
C5 P001 2 120n
M1 3 N009 N006 N006 PE
C7 5 2 10p Rpar=10Meg
C8 3 2 10p Rpar=10Meg
A3 1 2 2 2 2 N002 2 2 SCHMITT Vt=2.2 Vh=2m Trise=50n
S2 2 N012 N004 2 SW
A12 5 N012 N003 2 2 2 N010 2 OTA G=50u Rout=10Meg Vhigh=5 Vlow=-1
R2 4 N006 1m
G2 2 N003 3 2 table(1 6.2m 3.5 8.4m 5 13.2m)
D2 2 N003 ILMT
G1 2 N003 4 N006 10
C1 4 2 10p Rpar=10Meg
A1 3 2 2 2 2 N005 2 2 SCHMITT Vt=.9 Vh=2m Trise=50n
A2 2 N002 2 N005 2 2 N004 2 OR Trise=50n
C2 N009 2 .5p
C3 1 N009 .5p
S1 N009 1 N010 N009 OPOS
S3 2 N009 N009 N010 OPOSD
C9 N010 2 100p Rser=100K
.model PE VDMOS(Vto=.25 Kp=50 Rd=.15)
.model SW SW(Ron=1 Roff=100Meg Vt=0.5 Vh=-0.2)
.model ILMT D(Ron=1m Roff=10K  Vrev=10)
.model OPOS SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Vser=1.051 Ilimit=100u level=2)
.model OPOSD SW(Ron=10 Roff=100Meg Vt=0 Vh=-.1 Ilimit=100u level=2)
.ends LTC3025
